US20010027196A1
Following the method of Huffmann and Schaefer (J. Org. Chem. 1963, 28, 1816), a stirred mixture of 50 ml (221 mmol) triethylorthobenzoate, 9.3 g (221 mmol) cyanamide and 42 ml (442 mmol) acetic anhydride was heated at 130-150° C. for 1.5 hours with concomitant removal of the ensuing ethyl acetate and acetic anhydride by distillation from the reaction flask. The reaction mixture was then concentrated in vacuo using a rotary evaporater. Kugelrohr distillation (120° C., 3 mbar) afforded 35.8 g (93%) N-cyano-benzenecarboximidic acid ethyl ester as a colourless oil. ES-MS m/e (%): 175 (M+H+, 100).

reactant | triethylorthobenzoate | 221 mmol, 50 ml | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
reactant | cyanamide | 221 mmol, 9.3 g | N#CN | CH2N2
reactant | acetic anhydride | 442 mmol, 42 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyano-benzenecarboximidic acid ethyl ester | 35.8 g, 93% | C(C)OC(=NC#N)C1=CC=CC=C1 | C10H10N2O
